US05411742
Preparation of N,N,N-tri(2-hydroxypropyl)ammonium 5-n-dodecanoylsalicylate.
Into a beaker, are added, with stirring, 11.4 g (0.06 mole) of triisopropanolamine in 100 ml of isopropanol. The reaction medium is stirred and cooled to between 5° and 10° C. 19.2 g (0.06 mole) of 5-n-dodecanoylsalicylic acid are then added. The mixture is stirred for 30 min at room temperature and then the clear mixture is filtered. The filtrate is evaporated to dryness. An oil is obtained which crystallizes at room temperature. It is filtered on sintered glass. The white powder obtained is dried under vacuum over phosphoric anhydride. 29.1 g of product are obtained, equivalent to a yield of 95%.

reactant | triisopropanolamine | 0.06 mole, 11.4 g | CC(CN(CC(C)O)CC(C)O)O | C9H21NO3
reactant | 5-n-dodecanoylsalicylic acid | 0.06 mole, 19.2 g | C(CCCCCCCCCCC)(=O)C1=CC=C(C(C(=O)O)=C1)O | C19H28O4
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | N,N,N-tri(2-hydroxypropyl)ammonium 5-n-dodecanoylsalicylate | 29.1 g, yield of 95% | C(CCCCCCCCCCC)(=O)C1=CC=C(C(C(=O)[O-])=C1)O.OC(C[NH+](CC(C)O)CC(C)O)C | InChI=1S/C19H28O4.C9H21NO3/c1-2-3-4-5-6-7-8-9-10-11-17(20)15-12-13-18(21)16(14-15)19(22)23;1-7(11)4-10(5-8(2)12)6-9(3)13/h12-14,21H,2-11H2,1H3,(H,22,23);7-9,11-13H,4-6H2,1-3H3
